US06350907B1
1-(3-Cyanophenyl)-2-methyl-4-nitrobenzene (3.0 gm, 12.61 mmol) and tin(II) chloride dihydrate were suspended in ethanol (30 mL) and heated to 70° C. for 30 mins. After being cooled, the mixture was poured onto ice, and neutralised by the addition of sodium bicarbonate. The mixture was then extracted with dichloromethane (3×50 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure to give 4-amino-1-(3-cyanophenyl)-2-methylbenzene (1.8 gm, 69%) as a yellow oil.

reactant | 1-(3-Cyanophenyl)-2-methyl-4-nitrobenzene | 12.61 mmol, 3.0 gm | C(#N)C=1C=C(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C14H10N2O2
reactant | tin(II) chloride dihydrate | O.O.[Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-amino-1-(3-cyanophenyl)-2-methylbenzene | 1.8 gm, 69% | NC1=CC(=C(C=C1)C1=CC(=CC=C1)C#N)C | C14H12N2
